US07902181B2
A mixture of (1R,2R)-methyl 1-amino-2-(4-bromophenyl)cyclopropanecarboxylate hydrochloride (120 mg) and palladium on carbon (10%) (47.3 mg) in methanol (20 mL) was stirred at 5 bar of hydrogen for 48 h. The catalyst was removed by filtration and the filtrate evaporated to dryness. The residue was purified by preparative HPLC on a Phenomenex Gemini column using a 95-5% gradient of aqueous 0.1% ammonia in acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to afford (1R,2R)-methyl 1-amino-2-phenylcyclopropanecarboxylate (18 mg) as a colourless oil.

reactant | (1R,2R)-methyl 1-amino-2-(4-bromophenyl)cyclopropanecarboxylate hydrochloride | 120 mg | Cl.N[C@]1([C@H](C1)C1=CC=C(C=C1)Br)C(=O)OC
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 47.3 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | (1R,2R)-methyl 1-amino-2-phenylcyclopropanecarboxylate | 18 mg | N[C@]1([C@H](C1)C1=CC=CC=C1)C(=O)OC | C11H13NO2
